US08049016B2
Synthesis of 2-(1-(4-Fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-((3-methyl-1H-pyrazol-5-yl)methyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with (3-methyl-1H-pyrazol-5-yl)methanamine to react with 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid instead of (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as an off-white solid in 31% yield: mp 234-235° C. (diethyl ether); 1H NMR (300 MHz, DMSO-d6) δ 12.25 (s, 1H), 8.76 (s, 1H), 8.67 (t, J=5.5 Hz, 1H), 7.41-7.36 (m, 2H), 7.27-7.16 (m, 2H), 5.91 (s, 1H), 5.00 (s, 2H), 4.37-4.31 (m, 2H), 2.55 (s, 3H), 2.19-2.12 (m, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.7 (d, 1JC-F=244 Hz), 160.7, 151.2, 150.5, 149.7, 149.6, 138.7, 132.2 (d, 4JC-F=3 Hz), 132.1, 130.0 (d, 3JC-F=8 Hz), 122.9, 115.4 (d, 2JC-F=22 Hz), 102.3, 47.7, 37.3, 16.9, 10.4; MS (ES+) m/z 427.8 (M+1), MS (ES−) m/z 425.8 (M−1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | (3-methyl-1H-pyrazol-5-yl)methanamine | CC1=NNC(=C1)CN | C5H9N3
reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
product | 2-(1-(4-Fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-((3-methyl-1H-pyrazol-5-yl)methyl)thiazole-5-carboxamide | 31% yield | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)NCC2=CC(=NN2)C)C=C1 | C19H18FN7O2S
